* SEN_HEAT — субсхема из нетлиста KiCad + YAML
.subckt SEN_HEAT GND NTC_HEAT NTC_HEAT_W
  C25 NTC_HEAT_W GND 100n
  R25 NTC_HEAT_W NTC_HEAT_W 10k
  R26 NTC_HEAT_W NTC_HEAT 10k
.ends SEN_HEAT
